US06696473B2
Preparation of N-[4-(3′-Benzyl-3-methyl-4′-oxo-4-phenyl-3′,4′-dihydro-3H-[2,5′]-bithiazolyliden-2′-ylideneamino)phenyl]acetamide
The title compound was prepared from 3′-benzyl-3-methyl-2′-methylthio-4′-oxo-4-phenyl-3H,4′H-[2,5′]bithiazolyliden-3′-ium p-toluenesulfonate and 4′-aminoacetanilide in a manner similar to that described in Example 1. 1H-NMR (CDCl3): δ 7.56 (2H, d), 7.42-7.47 (5H, m), 7.24-7.34 (5H, m), 7.12 (1H, s), 6.97 (2H, d), 6.30 (1H, s), 5.15 (2H, s), 3.49 (3H, s), 2.17 (3H, s); MS(ESI): 513 (MH+).

reactant | 3′-benzyl-3-methyl-2′-methylthio-4′-oxo-4-phenyl-3H,4′H-[2,5′]bithiazolyliden-3′-ium p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.C(C1=CC=CC=C1)[N+]1=C(SC(C1=O)=C1SC=C(N1C)C1=CC=CC=C1)SC
reactant | 4′-aminoacetanilide | NC1=CC=C(NC(C)=O)C=C1 | C8H10N2O
product | N-[4-(3′-Benzyl-3-methyl-4′-oxo-4-phenyl-3′,4′-dihydro-3H-[2,5′]-bithiazolyliden-2′-ylideneamino)phenyl]acetamide | C(C1=CC=CC=C1)N1C(SC(C1=O)=C1SC=C(N1C)C1=CC=CC=C1)=NC1=CC=C(C=C1)NC(C)=O | C28H24N4O2S2
